US06884821B1
8.7 g of N1-(2-methoxybenzyl)-4-(trifluoromethyl)benzamide was dissolved in 20 ml trifluoroacetic acid, and 3.9 g of hexamethylene tetramine was added, and the mixture was reacted at 85° C. for 3 hours. The reaction solution was returned to room temperature, and water and ethyl acetate were added, and further sodium bicarbonate was added until the pH reached 8. After extracting with ethyl acetate, the extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (2:1), 4.2 g of N1-(5-formyl-2-methoxybenzyl)-4-(trifluoromethyl)benzamide was obtained.

reactant | N1-(2-methoxybenzyl)-4-(trifluoromethyl)benzamide | 8.7 g | COC1=C(CNC(C2=CC=C(C=C2)C(F)(F)F)=O)C=CC=C1 | C16H14F3NO2
reactant | hexamethylene tetramine | 3.9 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-(5-formyl-2-methoxybenzyl)-4-(trifluoromethyl)benzamide | 4.2 g | C(=O)C=1C=CC(=C(CNC(C2=CC=C(C=C2)C(F)(F)F)=O)C1)OC | C17H14F3NO3
